US08314147B2
Intermediate 20: Ethyl (4-{[(2-chloro-5-{[(3-chlorophenyl)methyl]oxy}phenyl)carbonyl]amino}-2-fluorophenyl)acetate
A solution of 2-chloro-5-{[(3-chlorophenyl)methyl]oxy}benzoic acid (207 mg, 0.7 mmol) in dichloromethane (3 ml) was treated with N-[2-(dimethylamino)ethyl]-N′-ethylcarbodiimide hydrochloride (201 mg, 1.05 mmol, 1.5 eq) and stirred at room temperature for 30 minutes. A solution of ethyl (4-amino-2-fluorophenyl)acetate (207 mg, 1.05 mmol, 1.5 eq) in dichloromethane (2 ml) was added and the resulting mixture heated at 40° C. overnight. On cooling, the mixture was diluted with methanol and purified by SCX cartridge eluting with methanol to afford the title compound as a yellow oil (110 mg). MS (ES+) m/z 476 [M+H]+ (C24H2035Cl2FNO4). 1H-NMR (400 MHz, d6-DMSO) δ 1.19 (3H, t, J 7.2), 3.68 (2H, s), 4.09 (2H, q, J 7.2), 5.20 (2H, s), 7.15-7.68 (10H, m).

reactant | 2-chloro-5-{[(3-chlorophenyl)methyl]oxy}benzoic acid | 0.7 mmol, 207 mg | ClC1=C(C(=O)O)C=C(C=C1)OCC1=CC(=CC=C1)Cl | C14H10Cl2O3
reactant | N-[2-(dimethylamino)ethyl]-N′-ethylcarbodiimide hydrochloride | 1.05 mmol, 201 mg, 1.5 eq | Cl.CN(CCN=C=NCC)C
reactant | ethyl (4-amino-2-fluorophenyl)acetate | 1.05 mmol, 207 mg, 1.5 eq | NC1=CC(=C(C=C1)CC(=O)OCC)F | C10H12FNO2
solvent | dichloromethane | 3 ml | ClCCl | CH2Cl2
solvent | dichloromethane | 2 ml | ClCCl | CH2Cl2
solvent | methanol | CO | CH4O
product | Ethyl (4-{[(2-chloro-5-{[(3-chlorophenyl)methyl]oxy}phenyl)carbonyl]amino}-2-fluorophenyl)acetate | 110 mg | ClC1=C(C=C(C=C1)OCC1=CC(=CC=C1)Cl)C(=O)NC1=CC(=C(C=C1)CC(=O)OCC)F | C24H20Cl2FNO4
